US09169253B2
31.1 Preparation of 2-cyclobutylidene-N-(3-fluorophenyl)-acetamide
1.5 g (13.50 mmol) of 3-fluoroaniline were dissolved in 20 ml of dichloromethane and treated with 5.19 g (29.7 mmol) of N-ethyl-N-isopropylpropan-2-amine. Within 10 min 12.82 g (16.20 mmol) of 2-cyclobutylideneacetyl chloride were added at 0° C. and the solution was stirred overnight at room temperature. The mixture was poured on ice water and extracted 2× with dichloromethane. The combined organic phases were washed once with saturated sodium chloride solution, dried with MgSO4 and evaporated in vacuo. The crude oil was treated with heptane and decanted twice, redissolved in ether-dichloromethane and treated with heptane till crystallization, yielding 2.2 g (77%) of a beige solid.

reactant | 3-fluoroaniline | 13.50 mmol, 1.5 g | FC=1C=C(N)C=CC1 | C6H6FN
reactant | N-ethyl-N-isopropylpropan-2-amine | 29.7 mmol, 5.19 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-cyclobutylideneacetyl chloride | 16.20 mmol, 12.82 g | C1(CCC1)=CC(=O)Cl | C6H7ClO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-cyclobutylidene-N-(3-fluorophenyl)-acetamide | 2.2 g, 77% | C1(CCC1)=CC(=O)NC1=CC(=CC=C1)F | C12H12FNO
